US07709483B2
(i) 7-Oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde
To a solution of 2-[bis(methyloxy)methyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one (0.87 g, 3.91 mmol) in 1:1 H2O/acetone (10 mL) was added p-TsOH.H2O (0.074 g, 0.39 mmol) and the reaction was heated at reflux for 2 days. The reaction was not complete, so additional p-TsOH.H2O (0.20 g) was added and the solution was refluxed for an additional 1 day. After the disappearance of starting material, the solution was concentrated under vacuum to yield the desired product as a white solid and the crude material was used directly in the next step (1.023 g).

reactant | 2-[bis(methyloxy)methyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one | 3.91 mmol, 0.87 g | COC(C=1N=CC2=C(N1)NC(CC2)=O)OC | C10H13N3O3
reactant | p-TsOH.H2O | 0.39 mmol, 0.074 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | p-TsOH.H2O | 0.20 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | H2O acetone | 10 mL | O.CC(=O)C
product | 7-Oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde | O=C1CCC2=C(N=C(N=C2)C=O)N1 | C8H7N3O2
